US08071624B2
(3S)-N-(7-oxoazepan-4-yl)-1-phenylpiperidine-3-carboxamide
To a solution of (3S)-N-(4-oxocyclohexyl)-1-phenylpiperidine-3-carboxamide (10 mg, 0.00003 mol, prepared as example 171) in concentrated aqueous HCl (0.5 mL), was added sodium azide (2.27 mg, 0.0000350 mol) in small portions over 3 minutes with slow agitation. The temperature was slowly increased to 50° C. The reaction temperature was maintained at 50° C. for 8.5 h and then poured into 50 g of crushed ice and water. The solution was basified with cold 50% NaOH and the resulting solution was extracted with EtOAc(×3). The EtOAc extracts were combined, dried over MgSO4, filtered and evaporated to yield the crude product, which was purified by prep-HPLC. LCMS: (M+H)+=316.2.

reactant | (3S)-N-(4-oxocyclohexyl)-1-phenylpiperidine-3-carboxamide | 0.00003 mol, 10 mg | O=C1CCC(CC1)NC(=O)[C@@H]1CN(CCC1)C1=CC=CC=C1 | C18H24N2O2
reactant | sodium azide | 0.0000350 mol, 2.27 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 0.5 mL | Cl | ClH
product | (3S)-N-(7-oxoazepan-4-yl)-1-phenylpiperidine-3-carboxamide | O=C1CCC(CCN1)NC(=O)[C@@H]1CN(CCC1)C1=CC=CC=C1 | C18H25N3O2
